US04906669
Farnesol (33.4 g; 150 mmole) was dropwise added to a solution of 1,4-hydroquinone (33.0 g; 300 mmole) and boron trifluoride ethyl etherate (17.0 g; 120 mmole) in 300 ml of dioxane at 50° C. over two hours. After stirring the resultant solution at that temperature for two hours, the reaction solution was poured into 500 ml of water and was extracted twice with diethyl ether (500 ml). The extract was washed once with 500 ml of 5% (w/v) aqueous sodium hydroxide solution, twice with water (500 ml) and then once with saturated aqueous solution of sodium chloride (500 ml) and then dried over anhydrous magnesium sulfate. Then, the solvent was distilled off and the resultant residue was chromatographed with a silica gel column. The fractious eluted with hexane-ethyl acetate (3:1) was evaporated to dryness to thereby obtain 6.63 g of waxy substance. This was dissolved in 40 ml of diethylether, then 24.5 g (103 mmole) of lead dioxide was added thereto and the solution was stirred at room temperature for two days. After removing lead dioxide by filtration, the filtrate was concentrated and the concentrate was chomatographed through a column packed with silica gel to obtain 1.1 g (3.5 mmole) of 2-farnesyl-1, 4-benzoquinone from the fractions eluted through the column with hexane-ethyl acetate (10:1) in an yield of 2.3%. Then, this compound (1.08 g; 3.46 mmole) was dissolved in 5 ml of pyridine and was heated under reflux for 2.5 hours. The reaction solution was poured into 50 ml of ice-water and was extracted twice with diethyl ether (50 ml). The extract was washed twice with water (50 ml) and then once with saturated aqueous sodium chloride solution (50 ml) followed by drying it over anhydrous magnesium sulfate, distilling off the solvent and subjecting the resultant residue to silica gel column chromatography. Thus, 470 mg (1.5 mmole) of 2-methyl-2-(4,8-dimethyl-3,7-nonadienyl)-6-chromenol was recovered from the fractions eluted with hexane-ethyl acetate (5:1) in an yield of 44% which corresponded to the overall yield, from farnesol, of 1.0%.

reactant | Farnesol | 150 mmole, 33.4 g | OCC=C(C)CCC=C(C)CCC=C(C)C | C15H26O
reactant | boron trifluoride ethyl etherate | 120 mmole, 17.0 g | B(F)(F)F.CCOCC
reactant | water | 500 ml | O | H2O
reactant | lead dioxide | 103 mmole, 24.5 g | [Pb](=O)=O
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
solvent | diethylether | 40 ml | C(C)OCC | C4H10O
product | 2-farnesyl-1, 4-benzoquinone | 3.5 mmole, 1.1 g, yield of 2.3% | C(C=C(C)CCC=C(C)CCC=C(C)C)C=1C(C=CC(C1)=O)=O | C21H28O2
